US05958942
To a suspension of 1.25 g (3.0 mmol) of 1,2-dihydro-3-methyl-[3,3-dimethyl-5-(phthalimido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 30 ml of ethanol was added, at room temperature, 0.44 ml (9.0 mmol) of hydrazinemonohydrate. The mixture was heated under reflux. The reaction mixture was cooled, and the resulting precipitates were filtered off. The solvent was distilled off. The residue was dissolved in chloroform. The solution was washed with a saturated aqueous solution of sodium hydrogencarbonate, dried, distilled off the solvent to give 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(amino)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one.

reactant | 1,2-dihydro-3-methyl-[3,3-dimethyl-5-(phthalimido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 3.0 mmol, 1.25 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCC(CCN2C(C=3C(C2=O)=CC=CC3)=O)(C)C)=O | C24H24N4O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(amino)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | CC=1N=C2N3C1C(N(C3=CC=C2)CCC(CCN)(C)C)=O | C16H22N4O
